US06610518B2
Anhydrous ammonia gas was passed into a solution of 4,4-dimethylpentane sulphonyl chloride (1.85 g) in dry tetrahydrofuran (5 ml) at 5-10° C. until saturation. The resulting suspension was stirred at room temperature for 18 hours and then evaporated under reduced pressure. The residue was partitioned between ethyl acetate (20 ml) and 2N aqueous hydrochloric acid (20 ml). The organic phase was separated, washed (brine 20 ml), dried (Na2SO4) and evaporated. Column chromatography on silica eluting with dichloromethane:methanol 98:2 gave 4,4-dimethylpentane sulphonic acid amide as an off-white solid (0.72 g).

reactant | ammonia | N | H3N
reactant | 4,4-dimethylpentane sulphonyl chloride | 1.85 g | CC(CCCS(=O)(=O)Cl)(C)C | C7H15ClO2S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4,4-dimethylpentane sulphonic acid amide | 0.72 g | CC(CCCS(=O)(=O)N)(C)C | C7H17NO2S
